US07241798B2
(1S,2S)-1-(3,5-Bis-trifluoromethyl-benzyloxymethyl)-2-phenyl-3-aza-bicyclo[3.1.0]hexane (racemic)
A flask containing racemic Intermediate 24, one enantiomer being (1S,2S)-1-(3,5-bis-trifluoromethyl-benzyloxymethyl)-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester (0.25 g, 0.49 mmol) and methylene chloride (10 mL) was immersed in a 0° C. bath. Trifluoroacetic acid (0.75 mL, 9.7 mmol) was added, and the reaction was stirred for 3 hours at room temperature. 20% NaOH solution was added cautiously and then saturated sodium bicarbonate solution was added until the pH=8. The phases were separated; the organics were washed with brine, dried over sodium sulfate, filtered, and concentrated to give the title compound (0.20 g, quantitative yield).

reactant | (1S,2S)-1-(3,5-bis-trifluoromethyl-benzyloxymethyl)-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | 0.49 mmol, 0.25 g | C(C)(C)(C)OC(=O)N1[C@H]([C@@]2(CC2C1)COCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C26H27F6NO3
reactant | Trifluoroacetic acid | 9.7 mmol, 0.75 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (1S,2S)-1-(3,5-Bis-trifluoromethyl-benzyloxymethyl)-2-phenyl-3-aza-bicyclo[3.1.0]hexane | 0.20 g, quantitative yield | FC(C=1C=C(COC[C@@]23[C@@H](NCC3C2)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C21H19F6NO
